US05491123
N-[3-(4-Bromophenyl)-prop-2-enyloxy]-phthalimide
18.5 g (0.11 mol) of N-hydroxyphthalimide and 31.4 g (0.11 mol) of 1-bromo-[3-(4-bromophenyl)]-prop-2-ene were added in succession to 350 ml of dry N-methylpyrrolidone, after which 12.1 g (0.12 mol) of triethylaminewere added dropwise at room temperature. The reaction mixture was stirred for four days at 20° C. and then poured onto 1.5 l of ice water, and the product was filtered off and washed with water and isopropanol. Yield: 86.8%; mp.: 161°-162° C.

reactant | N-hydroxyphthalimide | 0.11 mol, 18.5 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | 1-bromo-[3-(4-bromophenyl)]-prop-2-ene | 0.11 mol, 31.4 g | BrCC=CC1=CC=C(C=C1)Br | C9H8Br2
solvent | N-methylpyrrolidone | 350 ml | CN1C(CCC1)=O | C5H9NO
product | N-[3-(4-Bromophenyl)-prop-2-enyloxy]-phthalimide | Yield: 86.8% | BrC1=CC=C(C=C1)C=CCON1C(C=2C(C1=O)=CC=CC2)=O | C17H12BrNO3
